US06251911B1
1.75 g (12 mmol) of 3-chloro-4-fluoroaniline are dissolved in 20 ml of methanol, and 3 ml (12 mmol) of HCl (4.0N) are added. Concentration and drying (40° C., HV) yield 3-chloro-4-fluoro-aniline hydrochloride.

reactant | 3-chloro-4-fluoroaniline | 12 mmol, 1.75 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | HCl | 12 mmol, 4.0N, 3 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 3-chloro-4-fluoro-aniline hydrochloride | Cl.ClC=1C=C(N)C=CC1F | InChI=1S/C6H5ClFN.ClH/c7-5-3-4(9)1-2-6(5)8;/h1-3H,9H2;1H
